US07981874B2
4-[1-(Dimethoxy-phosphoryl)-fluoro-ethyl]-benzoic acid methyl ester.
4-[1-(Dimethoxy-phosphoryl)-1-hydroxy-ethyl]-benzoic acid methyl ester (0.60 g, 2.08 mmol) was added over 30 minutes to a stirring solution of DAST (1M in CH2Cl2) cooled to −78° C. under a dry nitrogen environment. The mixture was warmed to ambient temperature and stirred. After stirring for 90 minutes the reaction mixture was carefully quenched with ethanol containing pyridine (pyr: twice volume of DAST). After stirring for 30 mins the mixture was poured into ice cold water and extracted into DCM (3×). The combined organic extracts were washed with dilute HCl, water, brine, dried (MgSO4) then concentrated in vacuo. The material was carried forward without further purification. MS: cal'd 291 (MH+), exp 291 (MH+)

reactant | 4-[1-(Dimethoxy-phosphoryl)-1-hydroxy-ethyl]-benzoic acid methyl ester | 2.08 mmol, 0.60 g | COC(C1=CC=C(C=C1)C(C)(O)P(=O)(OC)OC)=O | C12H17O6P
reactant | DAST | 1M | CCN(CC)S(F)(F)F | C4H10F3NS
product | 4-[1-(Dimethoxy-phosphoryl)-fluoro-ethyl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(CF)P(=O)(OC)OC)=O | C12H16FO5P
